Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.92599625898
[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4]=[C:5]=[O:6]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],-3.4856976087
[H:1][C:2]#[C:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:4]#[C:5][H:6].[H:1][C:2](=[C:3]=[C:8]([H:9])[O:10][H:11])[H:7],3.58522449275
[C:2](=[C:3](\[O:4][H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.1292441965499975
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9],1.71464421524
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],3.77161134243
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:14],1.94086259545
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:3],5.21334944363
[H:1][C:2][O:3]/[C:4]=[C:5]1\[O:6][C:7]1([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],0.559887904561
[H:1][C:2]([H:3])[C:4]([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],5.05072973674
[H:1][C:2]([C:3][O:4][C:5][H:6])[O:10][C:7]([H:8])[H:9]>>[H:1][C:2]1[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10]1,-3.62035363439
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.48063400862
[H:1][O:2][C:3][C@@:10]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]1[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-1.42393933842
[H:1][O:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][O:3][C:4]([H:5])[C:6][C:7]#[C:8][H:9],4.23810103124
[C:1]=[O:2].[C:3](#[C:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],1.05505099831
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.0898378157699975
[C:1]#[C:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:1][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[C:2]#[C:3],8.01969655678
[C:3](#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[O:2]>>[O:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.91525219538
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3],6.309882548169999
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4],4.22021037128
[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.62310190766
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:3]([H:4])(=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][O:2],2.68742944421
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][H:8]>>[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][O:7][H:8],0.938365408956
[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-2.01474037357
[C:1].[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-7.45969019577
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.77896300932
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[C:6]#[C:7][O:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5],4.48141003521
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[O:3],1.7248157432
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7],0.91154989851
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],6.21160155955
